US05726306
A mixture of ethyl trans-5-(4-ethoxy-2-methoxyphenyl)-7-chloro-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate (0.18 g), potassium carbonate (0.10 g), methanol (10 ml), tetrahydrofuran (10 ml) and water (5 ml) was refluxed for 1.5 h. The resulting mixture was concentrated in vacuo, acidified with 1N hydrochloric acid (50 ml) and extracted with ethyl acetate (50 ml). The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo to give trans-5-(4-ethoxy-2-methoxyphenyl)-7-chloro-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid as colorless crystals (mp=230°-232° C.).

reactant | ethyl trans-5-(4-ethoxy-2-methoxyphenyl)-7-chloro-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate | 0.18 g | C(C)OC1=CC(=C(C=C1)[C@H]1O[C@@H](C(N(C2=C1C=C(C=C2)Cl)CC(C)(C)C)=O)CC(=O)OCC)OC | C27H34ClNO6
reactant | potassium carbonate | 0.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 10 ml | CO | CH4O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | trans-5-(4-ethoxy-2-methoxyphenyl)-7-chloro-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid | C(C)OC1=CC(=C(C=C1)[C@H]1O[C@@H](C(N(C2=C1C=C(C=C2)Cl)CC(C)(C)C)=O)CC(=O)O)OC | C25H30ClNO6
